US08710043B2
Step 1. (S,E)-N-((3-Methoxypyridin-2-yl)methylene)-2-methylpropane-2-sulfinamide
To a solution of 3-methoxy-pyridine-2-carbaldehyde (2.95 g, 21.51 mmol) in DCM (26 mL) was added (S)-2-methylpropane-2-sulfinamide (5.3 g, 43.7 mmol) and copper(II) sulfate (6.95 g, 43.5 mmol). The suspension was stirred at rt under argon for 18 hours, filtered, and the solid washed with DCM (2×20 mL). The filtrates were concentrated, and the product thus obtained was purified by silica gel flash column chromatography (using a 80G ISCO cartridge) and eluted using hexanes/EtOAc gradient followed by DCM/MeOH to yield the desired product (S,E)-N-((3-methoxypyridin-2-yl)methylene)-2-methylpropane-2-sulfinamide as a light-yellow solid after drying under high vacuum.

reactant | 3-methoxy-pyridine-2-carbaldehyde | 21.51 mmol, 2.95 g | COC=1C(=NC=CC1)C=O | C7H7NO2
reactant | (S)-2-methylpropane-2-sulfinamide | 43.7 mmol, 5.3 g | CC(C)(C)[S@](=O)N | C4H11NOS
solvent | DCM | 26 mL | C(Cl)Cl | CH2Cl2
catalyst | copper(II) sulfate | 43.5 mmol, 6.95 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | (S,E)-N-((3-methoxypyridin-2-yl)methylene)-2-methylpropane-2-sulfinamide | COC=1C(=NC=CC1)\C=N\[S@@](=O)C(C)(C)C | C11H16N2O2S
